* source FINALPROJECT-PART1
X_U1         N00568 N00211 N000032 N000033 N00238 LM741
V_V3         0 N000033 15
R_R1         N00211 N00238  10k  
R_R2         0 N00211  27k  
R_R3         N00376 N00568  5k  
R_R4         N00337 N00376  5k  
C_C1         N00568 0  100n  
C_C2         N00376 N00238  470n  
V_V1         N00337 0  
+SIN 0 0.01 318m 0 0 0
V_V2         N000032 0 15
