* source FINALPROJECT-PART4
X_U4         N00568 N00211 N000032 N000033 N00238 LM741
V_V13         0 N000033 15
V_V17         N00337 0 0Vdc
R_R13         N00211 N00238  10k  
R_R14         0 N00211  27k  
R_R15         N00376 N00568  5k  
R_R16         N00337 N00376  5k  
C_C8         N00376 N00238  470n  
C_{C9}         0 N00568  100n  
V_V12         N000032 0 15
.PARAM  C9=10n
