* source FINALPROJECT-PART5
X_U5         N00568 N00211 N000032 N000033 N00238 LM741
V_V15         0 N000033 15
R_R18         N00211 N00238  10k  
R_R17         0 N00211  27k  
R_R20         N00376 N00568  5k  
R_R19         N00337 N00376  5k  
C_C11         N00568 0  100n  
C_C10         N00376 N00238  470n  
V_V16         N00337 0 DC 0Vdc AC 0.01Vac 
V_V14         N000032 0 15
