* source FINALPROJECT-PART6
X_U30         N00568 0 N000032 N000033 N00238 LM741
V_V6         0 N000033 15
R_R32         0 N00238  1n  
R_R31         N00376 N00568  5k  
R_R30         N00337 N00376  5k  
C_C31         N00568 0  100n  
C_C30         N00376 N00238  470n  
V_V30         N00337 0 DC 0Vdc AC 0.01Vac 
V_V5         N000032 0 15
