* source FINALPROJECT-PART6-VTH
C_C41         N02211 0  100n  
R_R41         N02201 N02211  5k  
R_R40         N02237 N02201  5k  
V_V40         N02237 0 DC 0Vdc AC 0.01Vac 
C_C40         N02201 N02215  470n  
V_V5         N022930 0 15
X_U40         N02211 0 N022930 N023533 N02215 LM741
V_V6         0 N023533 15
